US06482943B1
1,2-Dihydro-4-(6-hydroxyhexyloxy)-1,2-dioxo-naphthalene (4)
A mixture of 6-bromohexanol-1 (4.5 g, 24.85 mmol) and the silver salt of 2-hydroxy-1,4-naphthoquinone (6.46 g, 23.01 mmol) in benzene (24 mL) was stirred for 48 h at 60° C. The reaction mixture was worked up as described for 2 and crystallized from hexane to afford a yellow solid (3.18 g, 50%). mp 96-98° C., 1H NMR (CDCl3) 8.12 (d, J=7.5 Hz, 1H), 7.87 (d, J=7.7 Hz, 1H), 7.70 (t, J=7.5 Hz, 1H), 7.58 (t, J=7.5 Hz, 1H), 5.95 (s, 1H), 4.15 (t, J=6.3 Hz, 2H), 3.69 (t, J=6.2 Hz, 2H), 1.92-1.97 (m, 2H), 1.3-1.8 (m, 7H)

reactant | 2-hydroxy-1,4-naphthoquinone | 23.01 mmol, 6.46 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
solvent | benzene | 24 mL | C1=CC=CC=C1 | C6H6
catalyst | silver | [Ag] | Ag
product | 1,2-Dihydro-4-(6-hydroxyhexyloxy)-1,2-dioxo-naphthalene | 3.18 g, 50% | OCCCCCCOC1=CC(C(C2=CC=CC=C12)=O)=O | C16H18O4
